US07144890B2
Preparation of 5-bromo-6-fluoro-2,2-diphenyl-benzo[1,3]dioxole
A mixture of 4-bromo-5-fluoro-benzene-1,2-diol (12 g, 58.0 mmol) and diphenyldichloromethane (1.2 eq., 16.50 g) was stirred at room temperature until gaseous evolution ceased. The mixture was heated with stirring at 180° C. for 20 min. The reaction mixture was allowed to cool to room temperature, diluted with methanol (50 ml) and vigorously stirred. The precipitated product was collected by filtration and dissolved in toluene (50 ml). Methanol (100 ml) was added and the mixture stirred 30 min at room temperature. The precipitated product was collected by filtration (yield 10.3 g, 48%), a further batch (6.4 g, 30%) was recovered from the mother liquors.

reactant | 4-bromo-5-fluoro-benzene-1,2-diol | 58.0 mmol, 12 g | BrC=1C=C(C(=CC1F)O)O | C6H4BrFO2
reactant | diphenyldichloromethane | 16.50 g, 1.2 eq. | C1(=CC=CC=C1)C(Cl)(Cl)C1=CC=CC=C1 | C13H10Cl2
solvent | methanol | 50 ml | CO | CH4O
product | 5-bromo-6-fluoro-2,2-diphenyl-benzo[1,3]dioxole | BrC1=CC2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1F | C19H12BrFO2
